US05804586
A solution of 7-methoxy-2,6-dimethyl-1-[1-(2-pyridyl)cyclopropyl]-1,2,3,4-tetrahydroisoquinoline (0.7 g) in 48% hydrobromic acid (10 ml) and glacial acetic acid (10 ml) was heated under reflux under nitrogen for 5 hours. The mixture was cooled to ambient temperature, and concentrated in vacuo. Water (50 ml) was added and the solution basified with aqueous sodium hydroxide solution (2N) until the solution had pH 8. The product was extracted with ether (100 ml) and ethyl acetate (200 ml), and the combined organic fractions were washed with water (100 ml). The organic layer was dried over sodium sulphate and the solvents removed in vacuo to yield a brown solid which was triturated with ether to yield 7-hydroxy-2,6-dimethyl-1-[1-(2-pyridyl)cyclopropyl]-1,2,3,4-tetrahydroisoquinoline (0.3 g) as a solid, mp 218° C. (Dec).

reactant | 7-methoxy-2,6-dimethyl-1-[1-(2-pyridyl)cyclopropyl]-1,2,3,4-tetrahydroisoquinoline | 0.7 g | COC1=C(C=C2CCN(C(C2=C1)C1(CC1)C1=NC=CC=C1)C)C | C20H24N2O
solvent | hydrobromic acid | 10 ml | Br | BrH
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 7-hydroxy-2,6-dimethyl-1-[1-(2-pyridyl)cyclopropyl]-1,2,3,4-tetrahydroisoquinoline | 0.3 g | OC1=C(C=C2CCN(C(C2=C1)C1(CC1)C1=NC=CC=C1)C)C | C19H22N2O
